US09278982B2
A mixture of tert-butyl 4-(2-chloroacetyl)piperazine-1-carboxylate (150 mg, 0.57 mmol) and sodium iodide (260 mg, 1.73 mmol) in acetone (6 mL) was stirred at room temperature for 21 h, and then the reaction mixture turned to a suspension containing white solid. The solids were eliminated by filtration, and the filtrate was dried to vacuo and washed with CH2Cl2 and H2O. The organic layer then dried over MgSO4, filtered and concentrated to give tert-butyl 4-(2-iodoacetyl)piperazine-1-carboxylate (164.4 mg, 84.4% yield). C11H191N2O3; brown solid; mp 69-71° C.; IR vmax (neat) 2976, 2926, 2861, 1696, 1650, 1459, 1419, 1366, 1258, 1168, 1028, 996, 750 cm−1; 1H NMR (400 MHz, CDCl3) δ 3.76 (2H, s), 3.57 (2H, m), 3.51 (2H, m), 3.41 (4H, m) 1.47 (9H, s); 13C NMR (100 MHz, CDCl3) δ 166.5, 154.2, 80.4, 47.0, 43.0 (2×), 41.9 (2×), 28.4 (3×).

reactant | tert-butyl 4-(2-chloroacetyl)piperazine-1-carboxylate | 0.57 mmol, 150 mg | ClCC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C11H19ClN2O3
reactant | sodium iodide | 1.73 mmol, 260 mg | [I-].[Na+]
solvent | acetone | 6 mL | CC(=O)C | C3H6O
product | tert-butyl 4-(2-iodoacetyl)piperazine-1-carboxylate | 164.4 mg, 84.4% yield | ICC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C11H19IN2O3
